US04772600
A solution of (S)-N-(3-nitro-2-pyridinyl)alanine ethyl ester (5.0 g, 0.0209 mole) in tetrahydrofuran (60 ml) was hydrogenated over 5% palladium on carbon (0.5 g) keeping the temperature of the solution at approximately room temperature to give (S)-N-(3-amino-2-pyridinyl)alanine ethyl ester. The solution of the reduction product was cooled in an ice bath and dried over magnesium sulfate under nitrogen. The solution was filtered and 4-chlorobenzoyl chloride (3.84 g, 0.022 mole) and triethylamine (2.22 g, 0.022 mole) were added simultaneously, dropwise, to the cooled and stirred solution. The reaction mixture was stirred at room temperature overnight under nitrogen and the solvents were removed under reduced pressure. The residue was partitioned between water (50 ml) and ethyl acetate (50 ml). The layers were separated and the aqueous layer was extracted again with ethyl acetate. The combined organic layers were washed twice with water, dried over magnesium sulfate, treated with charcoal, filtered and evaporated to an oil weighing 6.2 g (85% yield). A 2.2-g portion of the oil was dissolved in isopropyl alcohol and the solution was acidified with ethereal hydrogen chloride. The resulting solid was filtered and dried under high vacuum to give 1.70 g of title compound, mp 172°-177° C. with decomposition.

reactant | (S)-N-(3-nitro-2-pyridinyl)alanine ethyl ester | 0.0209 mole, 5.0 g | C(C)OC([C@@H](NC1=NC=CC=C1[N+](=O)[O-])C)=O | C10H13N3O4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | (S)-N-(3-amino-2-pyridinyl)alanine ethyl ester | 85% yield | C(C)OC([C@@H](NC1=NC=CC=C1N)C)=O | C10H15N3O2
